US07652049B2
Step B: (4S)-4-benzyl-3-{[5′-isopropyl-2′-methoxy-4-(trifluoromethyl)biphenyl-2-yl]methyl}-1,3-oxazolidin-2-one
A stirred suspension of (4S)-4-benzyl-3-[2-iodo-5-(trifluoromethyl)benzyl]1,3-oxazolidin-2-one (63 mg, 0.137 mmol), 2-methoxy-5-isopropylphenyl boronic acid (52 mg, 0.274 mmol), K2CO3 (47 mg, 0.34 mmol) and Pd(OAc)2 (9.2 mg, 0.0137 mmol) in acetone:H2O (5:1) (6 mL) was heated at reflux for 1 h. The reaction mixture was concentrated in vacuo, diluted with H2O (15 mL) and extracted with EtOAC (3×30 mL). The combined organic extracts were washed with brine (30 mL), dried (MgSO4), filtered and concentrated. The crude product was purified by silica-gel flash chromatography (0-20% EtOAc in hexanes gradient) to (4S)-4-benzyl-3-{[5′-isopropyl-2′-methoxy-4-(trifluoromethyl)biphenyl-2-yl]methyl}-1,3-oxazolidin-2-one. Rf=0.35 (15% EtOAc/hexanes). LCMS 484 (M+1)+. 1H NMR (CDCl3, 500 MHz) (atropisomers present; doubling of some peaks observed in 1H NMR) δ 7.72 (br s 1H), 7.65 (br s, 1H), 7.42 (m, 1H), 7.32-7.22 (m, 3H), 7.08 (d, J=2.3 Hz, 1H), 6.90-6.84 (m, 3H), 4.80 (d, J=15.8 Hz, 1H), 4.35 (d, J=15.8 Hz), 4.28 (t, J=8.7 Hz, 1H), 3.96-3.92 (m, 3H), 3.78 (s, 3H), 3.62-3.52 (m, 1H), 2.94-2.86 (m, 1H), 2.82 (dd, J=9.4, 3.9 Hz, 1H), 2.42 (dd, J=9.6, 3.9 Hz), 1.26 (s, 3H), 1.10 (s, 3H).

reactant | (4S)-4-benzyl-3-[2-iodo-5-(trifluoromethyl)benzyl]1,3-oxazolidin-2-one | 0.137 mmol, 63 mg | C(C1=CC=CC=C1)[C@@H]1N(C(OC1)=O)CC1=C(C=CC(=C1)C(F)(F)F)I | C18H15F3INO2
reactant | 2-methoxy-5-isopropylphenyl boronic acid | 0.274 mmol, 52 mg | COC1=C(C=C(C=C1)C(C)C)B(O)O | C10H15BO3
reactant | K2CO3 | 0.34 mmol, 47 mg | C(=O)([O-])[O-].[K+].[K+]
solvent | acetone H2O | 6 mL | CC(=O)C.O
catalyst | Pd(OAc)2 | 0.0137 mmol, 9.2 mg | CC(=O)[O-].CC(=O)[O-].[Pd+2]
product | (4S)-4-benzyl-3-{[5′-isopropyl-2′-methoxy-4-(trifluoromethyl)biphenyl-2-yl]methyl}-1,3-oxazolidin-2-one | C(C1=CC=CC=C1)[C@@H]1N(C(OC1)=O)CC1=C(C=CC(=C1)C(F)(F)F)C1=C(C=CC(=C1)C(C)C)OC | C28H28F3NO3
